US07064124B2
5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-(4-pyridylmethyloxy)benzoic acid
5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(4-pyridylmethyloxy)benzoic acid (0.425 g, 0.938 mmol) was dissolved in a mixed solution of acetonitrile (18 ml) and water (6 ml) and after adding thereto CAN (1.29 g, 2.35 mmol) at room temperature, the solution was stirred at room temperature for 1 hour. The reaction solution was diluted with water and then extracted with ether. The extract was washed with water and then dried, and the solvent was removed by distillation. The residue was purified by silica gel column chromatography (chloroform:methanol=9:1) and then recrystallized from ether to obtain the titled compound (0.376 g, 0.868 mmol, 93%).

reactant | 5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(4-pyridylmethyloxy)benzoic acid | 0.938 mmol, 0.425 g | COC=1C(=C(CC=2C=CC(=C(C(=O)O)C2)OCC2=CC=NC=C2)C(=C(C1OC)OC)OC)C | C25H27NO7
reactant | CAN | 2.35 mmol, 1.29 g | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
solvent | acetonitrile | 18 ml | C(C)#N | C2H3N
solvent | water | 6 ml | O | H2O
product | 5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-(4-pyridylmethyloxy)benzoic acid | 0.868 mmol, 0.376 g, 93% | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)O)C1)OCC1=CC=NC=C1)C)=O | C23H21NO7
